US06022893
N-[(4-Nitrophenyl)sulfonyl]glycine t-butyl ester
4-Nitrobenzenesulfonyl chloride (46.3 g) was added to a solution of glycine t-butyl ester hydrochloride (35 g) in pyridine (200 ml). The mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated. The residue was washed with water and then a mixture of hexane and ethyl acetate (9:1) and dried to give the title compound (61.4 g) having the following physical data.

reactant | 4-Nitrobenzenesulfonyl chloride | 46.3 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | glycine t-butyl ester hydrochloride | 35 g | Cl.C(C)(C)(C)OC(CN)=O
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | N-[(4-Nitrophenyl)sulfonyl]glycine t-butyl ester | 61.4 g | C(C)(C)(C)OC(CNS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])=O | C12H16N2O6S
